US04568700
Chloromethyldodecylether
30 g (1 mole) of paraformaldehyde were stirred in 100 ml 1,2-dichloroethane with 186 g (1 mole) of 1-dodecanol, and HCl gas was passed for 3 hours at 0°-5° C. The product was diluted with more solvent to give a 2M concentration.

reactant | paraformaldehyde | 1 mole, 30 g | C=O | CH2O
reactant | 1-dodecanol | 1 mole, 186 g | C(CCCCCCCCCCC)O | C12H26O
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | Chloromethyldodecylether | ClCOCCCCCCCCCCCC | C13H27ClO
